US09260397B2
1-(2,6-diisopropylphenyl)-3-hexyl imidazolium bromide
According to the general synthesis procedure 4.4 mmol (1.00 g) 1-(2,6-diisopropylphenyl)imidazole and 5.3 mmol (0.940 g, 0.83 ml) 1-bromoheptane are dissolved in 5 ml THF and heated for 20 h to 110° C.

reactant | 1-(2,6-diisopropylphenyl)imidazole | 4.4 mmol, 1.00 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C=NC=C1 | C15H20N2
reactant | 1-bromoheptane | 5.3 mmol, 0.83 ml, 0.940 g | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2,6-diisopropylphenyl)-3-hexyl imidazolium bromide | [Br-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[N+]1=CN(C=C1)CCCCCC | InChI=1S/C21H33N2.BrH/c1-6-7-8-9-13-22-14-15-23(16-22)21-19(17(2)3)11-10-12-20(21)18(4)5;/h10-12,14-18H,6-9,13H2,1-5H3;1H/q+1;/p-1
